US05998433
b) Synthesis of N,N-dimethyl-(6-benzyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl)amine dihydrochloride
N,N-Dimethyl-(6-benzyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl)amine 0.336 g was dissolved in 3 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. After this mixture was concentrated, diethyl ether was added; the resulting solid was filtered and washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-(6-benzyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl)amine | 0.336 g | CN(C)CC1=CC=2CNC(CC2O1)CC1=CC=CC=C1 | C17H22N2O
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
product | N,N-dimethyl-(6-benzyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl)amine dihydrochloride | Cl.Cl.CN(C)CC1=CC=2CNC(CC2O1)CC1=CC=CC=C1 | InChI=1S/C17H22N2O.2ClH/c1-19(2)12-16-9-14-11-18-15(10-17(14)20-16)8-13-6-4-3-5-7-13;;/h3-7,9,15,18H,8,10-12H2,1-2H3;2*1H
